US05550143
Preparation D: 2-chloro-10-(3-chloropropyl)phenothiazine
40 ml of a sodium hydroxide solution (50% by weight) are added to a solution of 2.34 g (10 mmol) of 2-chlorophenothiazine, 4.73 g (30 mmol) of 1-bromo-3-chloropropane and 0.34 g (1 mmol) of tetrabutylammonium hydrogenosulfate in 40 ml of 4-methylpentan-2-one. The mixture is stirred at ambient temperature for 48 hours. After customary treatment of the organic phase, drying over sodium sulfate, evaporation of the solvent and purification by chromatography on silica gel, 2.17 g of pure product are obtained (eluant: petroleum ether).

reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | 2-chlorophenothiazine | 10 mmol, 2.34 g | ClC1=CC=2NC3=CC=CC=C3SC2C=C1 | C12H8ClNS
reactant | 1-bromo-3-chloropropane | 30 mmol, 4.73 g | BrCCCCl | C3H6BrCl
reactant | tetrabutylammonium | 1 mmol, 0.34 g | C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 4-methylpentan-2-one | 40 ml | CC(CC(C)=O)C | C6H12O
product | 2-chloro-10-(3-chloropropyl)phenothiazine | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCl | C15H13Cl2NS
